US03976677
By operating as in Example 1, starting from 6.75 g of potassium meta-cresolate and from 5.5 g of acetophenone, 0.55 g of benzoylacetic acid were obtained.

reactant | potassium meta-cresolate | 6.75 g | C=1(C(=CC=CC1O)C)C(=O)[O-].[K+]
reactant | acetophenone | 5.5 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
product | benzoylacetic acid | 0.55 g | C(C1=CC=CC=C1)(=O)CC(=O)O | C9H8O3
